US06310208B1
A solution of 53.51 g (140.3 mmol) of methyl 3-[(2-ethoxycarbonyl-ethyl)-methyl-amino]-2-(4-ethyl-3,5-dimethoxyphenyl)-propionate in 150 ml of toluene was added dropwise at 80° to a suspension of 11.62 g (266.3 mmol) of sodium hydride (55% in mineral oil) in 150 ml of toluene and the mixture was subsequently heated at reflux for 15 hours. The solution was cooled to room temperature and adjusted to pH 1 with 6N hydrochloric acid. The toluene was separated and extracted once with 150 ml of 6N hydrochloric acid. The acidic phases were heated at reflux for 20 hours. After cooling to room temperature the mixture was adjusted to pH 14 with 28% NaOH and extracted three times with 250 ml of methylene chloride. The organic phases were washed once with 200 ml of water and once with 200 ml of saturated sodium chloride solution, dried (MgSO4), filtered and evaporated. Chromatography (silica gel, methylene chloride/methanol 19:1) and recrystallization from hexane yielded 34.4 g (88%) of 3-(4-ethyl-3,5-dimethoxy-phenyl)-1-methyl-piperidin-4-one as pale yellow crystals of m.p. 84-85°.

reactant | methyl 3-[(2-ethoxycarbonyl-ethyl)-methyl-amino]-2-(4-ethyl-3,5-dimethoxyphenyl)-propionate | 140.3 mmol, 53.51 g | C(C)OC(=O)CCN(CC(C(=O)OC)C1=CC(=C(C(=C1)OC)CC)OC)C | C20H31NO6
reactant | sodium hydride | 266.3 mmol, 11.62 g | [H-].[Na+]
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(4-ethyl-3,5-dimethoxy-phenyl)-1-methyl-piperidin-4-one | 34.4 g, 88% | C(C)C1=C(C=C(C=C1OC)C1CN(CCC1=O)C)OC | C16H23NO3
